US04673746
A mixture of 5.0 g of ethyl 2-{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]thio}-2-methylpropionate, 30 ml of 15% sodium hydroxide and 30 ml of methanol is heated under reflux for 2 hr. The reaction mixture is poured into ice/conc hydrochloric acid. The precipitate is collected, dried and recrystallized from toluene to afford 2-{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]thio}-2-methylpropionic acid, mp 149° C.

reactant | ethyl 2-{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]thio}-2-methylpropionate | 5.0 g | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)SC(C(=O)OCC)(C)C | C19H17ClFNO3S
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]thio}-2-methylpropionic acid | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)SC(C(=O)O)(C)C | C17H13ClFNO3S
